US08071595B2
A solution of 4-bromo-5-(3-chloro-4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one 0.34 g, 1.021 mmol), 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline (0.37 g, 1.021 mmol), and Cs2CO3 (1.67 g, 5.130 mmol) in toluene (6 mL) and water (3 mL) was degassed. Then, Pd(dppf)Cl2 (0.167 g, 0.204 mmol) was added under an inert atmosphere and the solution was again degassed. Then the reaction mixture was refluxed for 1 h, filtered through a pad of Celite® and the filtrate was diluted with EtOAc (20 mL). The combined organic layers were washed with water (5 mL) and brine (5 mL), dried over Na2SO4, filtered, and concentrated in vacuo to obtain the crude product. The crude material was purified via silica gel column chromatography to afford 5-(3-chloro-4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one (122 mg, 23%) as a solid. 1H NMR (500 MHz, d6-DMSO): δ 8.42 (d, J=8.5 Hz, 1H), 8.02 (t, J=7.9 Hz, 2H), 7.79 (t, J=7.4 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.65-7.59 (m, 2H), 7.51 (d, J=8.1 Hz, 1H), 7.22-7.18 (m, 3H), 7.12 (d, J=7.5 Hz, 2H), 5.40 (s, 2H), 3.91 (s, 3H), 1.46 (s, 6H). MS: [M+Na]: m/z=508.2, [M+H]: m/z=486.2. HPLC: 96%, Column: Acquity BEH-C-18, 50×2.1 mm, 1.7 um. Mobile Phase: 0.025% TFA in Water (A), AcN (B), Flow rate: 0.5 ml/min (Gradient).

reactant | 4-bromo-5-(3-chloro-4-methoxyphenyl)-2,2-dimethylfuran-3(2H)-one | 1.021 mmol, 0.34 g | BrC=1C(C(OC1C1=CC(=C(C=C1)OC)Cl)(C)C)=O | C13H12BrClO3
reactant | 2-((4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy)methyl)quinoline | 1.021 mmol, 0.37 g | CC1(OB(OC1(C)C)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C | C22H24BNO3
reactant | Cs2CO3 | 5.130 mmol, 1.67 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 3 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 0.204 mmol, 0.167 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(3-chloro-4-methoxyphenyl)-2,2-dimethyl-4-(4-(quinolin-2-ylmethoxy)phenyl)furan-3(2H)-one | 122 mg, 23% | ClC=1C=C(C=CC1OC)C1=C(C(C(O1)(C)C)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C29H24ClNO4
